US04147872
1-Benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]3-hydroxypiperidine
A solution of 20.0 g. (51.4 mmols) of 1-bromo-2-benzyloxy-4-(1,1-dimethylheptyl)benzene in 75 ml. of tetrahydrofuran is slowly added to 2.5 g. (103 mmols) of 70-80 mesh magnesium metal. The resulting mixture is refluxed for 20 minutes and is then cooled to -10° C. A solution of 9.71 g. (51.4 mmols) of N-benzyl-3-piperidone in 25 ml. of tetrahydrofuran is then added at such a rate that the reaction temperature is maintained below 0° C. The reaction mixture is stirred for 30 minutes following completion of addition and is then added to 500 ml. of saturated ammonium chloride and 500 ml. of ether. The ether extract is washed with two 250 ml. portions of sodium chloride, dried over magnesium sulfate and evaporated to an oil. The oil is purified via column chromatography on 700 g. of silica gel eluted with 50% ether-cyclohexane to yield 17.1 g. (67%) of the title compound as an oil:

reactant | 1-bromo-2-benzyloxy-4-(1,1-dimethylheptyl)benzene | 51.4 mmols | BrC1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C22H29BrO
reactant | magnesium | [Mg] | Mg
reactant | N-benzyl-3-piperidone | 51.4 mmols | C(C1=CC=CC=C1)N1CC(CCC1)=O | C12H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]3-hydroxypiperidine | 67% | C(C1=CC=CC=C1)N1CC(CCC1)(O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C34H45NO2
